US04243679
Preparation of 2-amino-3-prenylthiopropanoic acid (ITA 275)
A solution of prenyl chloride (6.31 g; 0.06 m) in ethanol (40 ml) was slowly added to a stirred solution of cysteine hydrochloride (7.9 g, 0.05 m) and Na2CO3. 10 H2O (28.6 g, 0.10 m) in water (130 ml) at 15° C. The mixture was stirred for three hours at room temperature, carefully heated to 80° C., kept at this temperature for half an hour and allowed to stand overnight at room temperature. The white precipitate was filtered, washed with ethanol followed by a water wash and dried. 1.6 g (18%) of a white crystalline solid of the above composition was obtained m.p. 190°-4° C.

reactant | prenyl chloride | 6.31 g | C(C=C(C)C)Cl | C5H9Cl
reactant | cysteine hydrochloride | 7.9 g | Cl.N[C@@H](CS)C(=O)O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 130 ml | O | H2O
reactant | H2O | 28.6 g | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-amino-3-prenylthiopropanoic acid | 1.6 g, 18% | NC(C(=S)O)CCC=C(C)C | C8H15NOS
